US04421754
2.0 g of 4-(4-benzoylbutyl)-1-(cyanomethylamino)-piperazine dihydrochloride was dissolved in 22 ml of water, and while the solution was cooled to below 5° C., an aqueous solution containing 1.0 g of sodium nitrite was added over the course of 10 minutes. The reaction was carried out at this temperature for 2 hours. The reaction mixture was extracted with chloroform. The extract was washed with water and dried, and the chloroform was distilled off to give 4-(4-benzoylbutyl)-1-(N-nitrosocyanomethylamino)-piperazine.

reactant | 4-(4-benzoylbutyl)-1-(cyanomethylamino)-piperazine dihydrochloride | 2.0 g | Cl.Cl.C(C1=CC=CC=C1)(=O)CCCCN1CCN(CC1)NCC#N
reactant | sodium nitrite | 1.0 g | N(=O)[O-].[Na+]
solvent | water | 22 ml | O | H2O
product | 4-(4-benzoylbutyl)-1-(N-nitrosocyanomethylamino)-piperazine | C(C1=CC=CC=C1)(=O)CCCCN1CCN(CC1)N(N=O)CC#N | C17H23N5O2
